US06184242B2
60% Sodium hydride in mineral oil (0.96 g, 24 mmol) was added to a solution of isopropanol (7.59 mL, 36 mmol) in dry N,N-dimethylformamide (30 mL) at 0° to 5° C. under argon atmosphere. After the mixture was stirred for about 25 minutes, 4-bromo-benzyl bromide was added and the mixture stirred at 20° C. for an additional 1 hour. The solution was partitioned between saturated ammonium chloride (50 mL) and diethyl ether (50 mL). The aqueous phase was extracted with diethyl ether (3×20 mL), and the combined organic layers were washed with water, dried (Na2SO4), and evaporated in vacuo. The crude product was filtered over silica gel to give pure 1-bromo-4-isopropoxymethylbenzene (2.33 g, 85%) as clear oil.

reactant | Sodium hydride | [H-].[Na+]
reactant | isopropanol | 36 mmol, 7.59 mL | C(C)(C)O | C3H8O
reactant | 4-bromo-benzyl bromide | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-bromo-4-isopropoxymethylbenzene | 2.33 g, 85% | BrC1=CC=C(C=C1)COC(C)C | C10H13BrO
